US06544985B2
A mixture of 3-hydrazinothiocarbonyl-benzoic acid methyl ester trifluoroacetate (0.49 g) and 2-chloro-acetimidic acid ethyl ester hydrochloride (0.47 g) in EtOH (6 mL) was heated to 80° C. for 2.5 h. The mixture was diluted with AcOEt and washed with 1N HCl and with brine. The organic layer was dried and evaporated. The residual oil (0.8 g) was dissolved in MeOH (5 mL), MeONa (0.08 g) was added and the solution was heated to 65° C. for 0.5 h. The mixture was diluted with AcOEt and washed with 1N HCl and with brine. The organic layer was dried and evaporated and the residue was crystallized from AcOEt/hexane to give 3-(5-hydroxymethyl-[1,3,4]thiadiazol-2-yl) -benzoic acid methyl ester (0.15 g) as a white solid, MS (ISP) 251.2 [(M+H)+].

reactant | 3-hydrazinothiocarbonyl-benzoic acid methyl ester trifluoroacetate | 0.49 g | FC(C(=O)O)(F)F.COC(C1=CC(=CC=C1)C(=S)NN)=O
reactant | 2-chloro-acetimidic acid ethyl ester hydrochloride | 0.47 g | Cl.C(C)OC(CCl)=N
solvent | EtOH | 6 mL | CCO | C2H6O
solvent | AcOEt | CCOC(=O)C | C4H8O2
product | 3-(5-hydroxymethyl-[1,3,4]thiadiazol-2-yl) -benzoic acid methyl ester | 0.15 g | COC(C1=CC(=CC=C1)C=1SC(=NN1)CO)=O | C11H10N2O3S
